Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
CC: Stuck ERCP basket wire 

 
Major Surgical or Invasive Procedure:
ERCP
 
History of Present Illness:
CP: Dr. ___
. 
CC: Stuck ERCP basket wire 
History obtained with the assistance of the ___ interpretor 
over the telephone and her dtr ___
________________________________________________________________
HPI: 
___ y/o female with gallstones, CCY ___, HTN, DM, admitted on 
___ at ___ for biliary obstruction from CBD stone when 
she presented with n/v/diarrhea/subjective fevers and epigastric 
pain. These sx are similar to what she experienced prior to CCY 
in ___. She went to the ___ endoscopy unit today for 
ERCP and stone extraction today.  During procedure, 
sphincterotomy performed with some pus drainage noted; basket 
unfortunately
broke and is stuck.  Basket wire still in place and in patient's 
mouth.  Airway stable, pt on room air (98/RA), other VSS.  
Getting unasyn for presumed cholangitis. Needs transfer tonight 
for ERCP tomorrow AM to retrieve basket and stone.  Pt stable 
but at risk for perforation and worsening infection.  Per call 
in pt needs tele and continuous O2 sat monitoring.  Per report 
she
travelled to ___ one year ago.  
. 
ROS
PAIN SCALE: ___  epigastric pain radiating to the back 

CONSTITUTIONAL:        [] All Normal
[ +] Fever  [+ ] Chills   [ ] Sweats  [ ] Fatigue   [ ] Malaise  

[ ]Anorexia  [ ]Night sweats
[- ] _____ lbs.    weight  loss/gain     over _____ months
Eyes
        [X] All Normal
[ ] Blurred vision   [ ] Loss of vision [] Diplopia [ ]
Photophobia
ENT []
[+ ] Dry mouth  [ ] Oral ulcers [ ] Bleeding gums [ ] Sore 
throat
[] Sinus pain [ ] Epistaxis  [ ] Tinnitus
[ ] Decreased hearing    [ ] Other:
RESPIRATORY:    [X] All Normal
[ ] Shortness of breath      [ ] Dyspnea on exertion [ ] Can't
walk 2 flights     [ ] Cough [ ] Wheeze  [ ] Purulent sputum    
[
] Hemoptysis   [ ]Pleuritic pain 
[ ] Other:
CARDIAC:        [X]  All Normal
[ ] Palpitations   [ ] Edema   [ ] PND [ ] Orthopnea    [ ] 
Chest
Pain [ ] Dyspnea on exertion [ ] Other:
GI:             [+] Per HPI
GU:             [X] All Normal
[ ] Dysuria      [ ] Incontinence or retention  [ ] Frequency   
[ ] Hematuria  []Discharge []Menorrhagia  
SKIN:           [] All Normal
[ ] Rash        [ +] Pruritus
NEURO:          [] All Normal
[ ] Headache    [ ] Visual changes   [ ] Sensory change [
+]Confusion with anesthetic but none now[ ]Numbness of
extremities
[ ] Seizures   [ ] Weakness [ ] Dizziness/Lightheaded [ ]Vertigo
[ ] Headache

 
Past Medical History:
# HTN/HLD
# DM2 hgbA1C = 6.5 ___ not on any medications as outpt
# atypical CP negative stress test ___
# obesity
# SAH
# Anxiety
# memory d/o
# migraine
# optic neuropathy 

 
Social History:
___
Family History:
Her father died of an MI at age ___. Her mother is still alive 
and has DM. No one in her family has a history of gallstones. 

 
Physical Exam:
VITAL SIGNS: 
PAIN SCORE ___. VS: T = 99.7 P = 88 BP 144/77 RR 16 O2Sat on  ___97% on 2L
GENERAL:  Obese pleasant female laying in bed
Nourishment:good  
Grooming: good  
Mentation: alert, speaking in full sentences  
2. Eyes: [] WNL 
PERRL, EOMI without nystagmus, Conjunctiva: clear
3. ENT [] WNL
[X] Moist  [] Endentulous  [] Ulcers  [] Erythema  [] JVD ____ 
cm
[] Dry  [] Poor dentition  [] Thrush  [] Swelling  [] Exudate
4. Cardiovascular [X] WNL
[X] Regular  [] Tachy  [X] S1 [X] S2 [+] Systolic Ejection 
Murmur
___, Location: LUSB
[X] Edema RLE  None  [X] Edema LLE None 
2+ DPP b/l
[] Vascular access  [X] Peripheral [] Central site:
5. Respiratory [ X]WNL
[X] CTA bilaterally  [- ] Rales  [ ] Diminshed 
[X] Comfortable     [ ] Rhonchi   [ ] Dullness
6. Gastrointestinal [ ] WNL
NABS, soft +epigastric tenderness. No rebound. Mild RUQ 
tenderness. 
[] Non distended  [+] distended  [] bowel sounds Yes/No  [] 
guiac: positive/negative
7. Musculoskeletal-Extremities [X] WNL
[ ] Tone WNL  [X]Upper extremity strength ___ and symmetrical  
[]Other:
[ ] Bulk WNL    [X] Lower extremity strength ___ and symmetrica 
[] Other:
8. Neurological [] WNL
[X] Alert and Oriented x 3 [ ] Romberg: Positive/Negative  [ ] 
CN II-XII intact  [ X] Normal attention  [ ] FNF/HTS WNL [] 
Sensation WNL  [ -] Delirious/confused  [ ] Asterixis 
Present/Absent  [ ] Position sense WNL
9. Integument  [] WNL [X] Warm  [X] Dry  [] Cyanotic [] Rash:
none/diffuse/face/trunk/back/limbs  
10. Psychiatric [X] WNL [X] Appropriate [] Flat affect [-] 
Anxious [] Manic []
Intoxicated [X] Pleasant [] Depressed [] Agitated [] Psychotic  
[] Combative

 
Pertinent Results:
LABS: ___ at ___
140|103|8
3.3|25 |0.6
Ca = 8.4
Mg = 1.9
Tbili = 8.1 up from 5.7 on ___ 
with Dbili = 6.8 up from 4.7 on ___
AST = 156
ALT = 461
ALP = 378
Lipase = 130
ALP = 370
      13.2
11.6/39.1\253
68.7N/0.7B/18.4L
INR = 1.1
.
LAST ECHO:
Stress echo in ___ with no evidence of ischemia
.
___
Hpylori + ve
.
___ UA negative. 
.
# OSH ERCP (___): The major papilla was normal. The bile 
duct was deeply cannulated. Contrast was injected. I personally 
interpreted the bile duct images. Ductal flow of contrast was 
adequate. Imagequality was adequate. Contrast extended to the 
main bile duct. Contrast extended to the cystic duct. Contrast 
extended to  the hepatic ducts. A long cystic duct stump 
originated in the
lower third of the main bile duct. The lower third of the main 
bile duct contained one stone. The main bile duct was dilated. 
Biliary sphincterotomy was made with a traction (standard) 
sphincterotome using ___ electrocautery. There was no 
post-sphincterotomy bleeding. The biliary tree was swept with a 
11.5 mm balloon and basket starting at the bifurcation. Sludge 
was swept from the duct. A few stones were removed. Pus was 
coming out of the ampulla. One stone remained. The basket got 
stuck with the stone in the bile duct and the wire broke 
proximally instead of breaking around the stone. 
Post Procedure Diagnosis:
     - The major papilla appeared normal.
     - The patient has had a cholecystectomy.
     - The entire main bile duct was dilated.
     - Choledocholithiasis with a partial obstruction was found.
Partial removal was accomplished by biliary sphincterotomy; no 
stent was inserted. 
Complications: Unable to remove basket with one wire coming out 
of the mouth 
.
# OSH CT abd/pelvic (___): Mild diffuse thickening of the 
gastric  antrum, which can be seen in  the setting of gastritis. 
 2. Uterine fibroids. 

# ERCP (___): The scout film showed an impacted wire basket. The 
bile duct was deeply cannulated with the sphincterotome. 
Contrast was injected and there was brisk flow through the 
ducts. Contrast extended to the entire biliary tree. The wire 
basket was seen in the distal CBD. The left and right hepatic 
ducts and all intrahepatic branches were normal. To facilitate 
removal of the basket, a sphincteroplasty was made with a CRE 
balloon from 12 mm to 15 mm.  The biliary tree was then swept 
with a balloon above the impacted basket. The wire basket was 
removed from the patient. Stones were also extracted. A ___ x 5 
cm double pigtail stent was placed in the main duct. Excellent 
bile and contrast drainage was seen endoscopically and 
fluoroscopically

 
Brief Hospital Course:
ASSESSMENT & PLAN: ___ year old female with h/o DM, HTN, HLD, h/o 
gallstones s/p remote CCY in ___ who presents with 
n/v/abdominal pain/diarrhea/fevers found to have obstructive 
choledolithiasis and cholangitis s/p ERCP with removal of some 
stones but then the basket got stuck with the stone in the bile 
duct and the wire
broke proximally.
.
# OBSTRUCTIVE CHOLEDOLITHIASIS, CHOLANGITIS, RETAINED BASKET 
WIRE. Ms. ___ was admitted s/p ERCP (done at ___ 
Endoscopy) for cholangitis - however course was complicated by 
the retention of basket wire within the distal CBD.  She 
underwent ERCP here where sphincteroplasty was performed, basket 
wire was retrieved along with multiple CBD stones.  A CBD stent 
was placed to expedite clearance of any remaining stones/sludge. 

   She presented with leukocytosis, elevated LFTs, RUQ abd pain, 
pus from the CBD duct c/w cholangitis.  For this, she was 
treated with IV unasyn along with IV dilaudid and zofran PRN for 
pain/nausea control.  She did well after the ERCP procedure - 
and was able to tolerate a regular diet the same day.  She will 
need to complete 5 more day of ciprofloxacin and flagyl.  Due to 
loose stool and diarrhea (and recent iv antibiotics), the 
concern was for the possibility of C.diff.  Stool c.diff were 
sent - and extra doses of flagyl were prescribed in case the 
stool studies returned positive.  She should not take any 
aspirin, Plavix, NSAIDS, Coumadin for the following 5 days.  She 
will need a repeat ERCP 4 weeks for stent pull and 
re-evaluation. 

# GASTRITIS:  Ms. ___ had a positive H pylori test at OSH.  
Abd CT also revealed with diffuse thickening of the antrum 
consistent with gastritis.  A 14-day prescription of PPI, 
Clarithromycin and Amoxicilli was given for treatment of H. 
Pylori.  Since this is not urgent, she (through her daughter) 
understands that this need not be immediately treated and may be 
postponed until the cholangitis is fully treated (and prospect 
of C.diff is eliminated). 

# DIABETES MELLITUS - last Hgb A1C 6.5 not on medications at 
home.  She was placed on ISS here along with diabetic diet.

# HTN/HLD: HCTZ/toprol/lisinpril were continued.  Lipitor can be 
resumed on d/c.
# DEPRESSION:
- Continue wellbutrin
.
# FEN: [X]Oral   [ ]Tube feeds  [ ]Parenteral [X] NPO 
# DVT PROPHYLAXIS: [ X]Pharmacological  [] Mechanical  []
Ambulation
# Lines and drains: [ X]Periphera [ ]CVL _____ days(s) [ ]PICC  
____day(s) []Foley day(s)
# PRECAUTIONS: [X ] None [ ]Fall       [] Aspiration   []
MRSA/VRE/C diff/ESBL/Droplet/Neutropenic/Airbourne  [ 
]Restraints
# DISPOSITION: [X] Home    [ ] Rehab   [ ] SNF [] Hospice
 Can likely go home later today
# Code Status: FULL CODE d/w pt 
___: Dtr ___ ___- oncology RN at ___

# Transition: f/u stent removal in 4 weeks.  Complete PO abx.  
HPylori treatment therafter

 
Medications on Admission:
bismuth subsalicylate (PEPTO BISMOL) 262 MG chewable tablet 
clobetasol (TEMOVATE) 0.05 % cream 
camphor-menthol (SARNA) lotion 
hydrOXYzine (ATARAX) 25 MG tablet 
cholecalciferol (VITAMIN D) 1000 UNITS capsule 
nitroGLYCERIN (NITROSTAT) 0.4 MG sublingual tablet 
lisinopril (PRINIVIL,ZESTRIL) 5 MG tablet 
hydrochlorothiazide (HYDRODIURIL) 25 MG tablet 
atorvastatin (LIPITOR) 40 MG tablet 
metoprolol (TOPROL-XL) 25 MG 24 hr tablet 
buPROPion (WELLBUTRIN) 100 MG tablet bid 

 
Discharge Medications:
1. BuPROPion 100 mg PO BID 
2. Lisinopril 5 mg PO DAILY 
3. Metoprolol Succinate XL 25 mg PO DAILY 
4. Ciprofloxacin HCl 500 mg PO Q12H Duration: 5 Days 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*10 Tablet Refills:*0
5. Amoxicillin 1000 mg PO Q12H 
RX *amoxicillin 500 mg 2 tablet(s) by mouth every twelve (12) 
hours Disp #*56 Tablet Refills:*0
6. Atorvastatin 40 mg PO QPM 
7. Clarithromycin 500 mg PO Q12H 
RX *clarithromycin 500 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*28 Tablet Refills:*0
8. Hydrochlorothiazide 25 mg PO DAILY 
9. Omeprazole 20 mg PO BID 
RX *omeprazole 20 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0
10. MetRONIDAZOLE (FLagyl) 500 mg PO TID 
RX *metronidazole 500 mg 1 tablet(s) by mouth three times a day 
Disp #*42 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cholangitis
Choledocholithiasis
Foreign body common bile duct
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
It was a pleasure looking after you, Ms. ___.  As you know, 
you underwent an ERCP here to retrieve the wire basket stuck in 
the common bile duct.  You tolerated the ERCP here well: the 
wire was removed along with the stones within the common bile 
duct.  A bile duct stent was also placed to ensure adequate 
passage of biliary stones.   
   Please complete 5 days of ciprofloxacin and flagyl 
(antibiotics) to treat the infection within the bile duct.  
Thereafter, you can start the other antibiotics (prilosec, 
amoxicillin, clarithromycin) to treat H.Pylori.  Since treatment 
of H.Pylori is not urgent, you may elect to delay the H.Pylori 
treatment until there is enough time to recover from the 
cholangitis and ensure that you are not infected with C.diff.  
We will contact you with the stool Cdiff results. 
   You will be contacted by our ERCP department to schedule a 
follow up ERCP to remove the stent.  
 
Followup Instructions:
___